US07417003B2
FIG. 3 shows a flow diagram for the decomposition station or section 18 of the plant. The decomposition section 18 is where a two step process shown in FIG. 4 is carried out. The decomposition station 18 has a decomposer vessel 40 where CHP is converted to phenol and acetone at about 60° C. to 70° C. using about 20 to 60 ppm liquid H2SO4 as a catalyst supplied through line 19. A high recycle ratio (e.g., 25/1 to 100/1) of decomposer effluent to feed through a decomposer loop 42 is used to control heat and ensure conversion from about 85 wt % CHP down to about 1 to 2.5 wt % CHP. A dehydrator 46 receives a portion of the effluent from the decomposer through line 48 where DCP (dicumylperoxide) is converted to CHP and DMPC (dimethylphenylcarbinol) and DMPC is subsequently dehydrated to form AMS (alpha-methylstyrene) in high yield (See FIGS. 4 and 5). This later allows AMS to be hydrogenated back to cumene and recycled in the process to reduce the fresh cumene feed consumption.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | DCP | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
reactant | DMPC | CC(O)(C1=CC=CC=C1)C | C9H12O
catalyst | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | acetone | CC(=O)C | C3H6O
product | AMS | CC(=C)C1=CC=CC=C1 | C9H10
